US06248885B1
Isobutyryl chloride (10.90 g, 0.1 mol) was added to a solution of tert-butylisobutylamine (25.85 g, 0.2 mol) in tetrahydrofuran (150 ml) at room temperature and stirred for 1 h. Solids were filtered off and washed with tetrahydrofuran ( 2×25 ml). N, N-tert-butylisobutyl-2-methylpropionamide was isolated by distillation to yield 18.50 g, (90%), bp 59-60° C./1.3 mm Hg. A 1 M borane-tetrahydrofuran solution (100 ml, 0,10 mol) was added dropwise to a solution of the amide (17.95 g, 90 mmol) in tetrahydrofuran (50 ml) at room temperature and the mixture refluxed for 1 h. Water (5 ml) was added after cooling, followed by a slow addition of 6 M hydrochloric acid (60 ml). Tetrahydrofuran was distilled off and solid sodium hydroxide (20.00 g, 0.5 mol) was added. The organic layer was separated and the aqueous solution was extracted with n-pentane (50 ml). The organic solutions were combined, dried over anhydrous magnesium sulfate, and the product was isolated by distillation to yield 14.24 g, (85%), bp 34-35° C./1.5 mm Hg; 1H NMR (CDCl3) δ0.84 (d, J=6.6 Hz, 12H, CH3), 1.01 (s, 9H, CH3), 1.58 (nonet, J=6.6 Hz, 2H, CH), 2.14 (d, J=6.6 Hz, 4H, CH2),

reactant | Isobutyryl chloride | 0.1 mol, 10.90 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | tert-butylisobutylamine | 0.2 mol, 25.85 g | C(C)(C)(C)NCC(C)C | C8H19N
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | N-tert-butylisobutyl-2-methylpropionamide | C(C)(C)(C)NC(C(C)(C)CC(C)C)=O | C12H25NO
